US06268387B1
Step B: 3-(Phenylamino)-4-methoxybenzoic acid
A mixture of 3-(phenylamino)-4-methoxybenzoic acid, methyl ester (0.4 g, 1.6 mmol), methanol (10 mL), and 4N sodium hydroxide (15 mL) was stirred and heated to reflux. After 2 hours, the methanol was removed by rotary evaporator and the residual aqueous suspension stirred and acidified with 4N HCl. The precipitate was filtered off, rinsed with water, and dried to afford the product (0.35 g); m.p. 198-200° C.

reactant | 3-(phenylamino)-4-methoxybenzoic acid, methyl ester | 1.6 mmol, 0.4 g | C1(=CC=CC=C1)NC=1C=C(C(=O)OC)C=CC1OC | C15H15NO3
reactant | sodium hydroxide | 4N, 15 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-(Phenylamino)-4-methoxybenzoic acid | 0.35 g | C1(=CC=CC=C1)NC=1C=C(C(=O)O)C=CC1OC | C14H13NO3
